US08686048B2
Intermediate 84: 3′-butoxy-2,6-difluorobiphenyl-4-amine
The title compound (172 mg) was prepared from 4-bromo-3,5-difluoroaniline (200 mg, 1 mmol) and 3-butoxyphenyl boronic acid (242 mg, 1.2 mmol) as a colourless liquid.

reactant | 4-bromo-3,5-difluoroaniline | 1 mmol, 200 mg | BrC1=C(C=C(N)C=C1F)F | C6H4BrF2N
reactant | 3-butoxyphenyl boronic acid | 1.2 mmol, 242 mg | C(CCC)OC=1C=C(C=CC1)B(O)O | C10H15BO3
product | 3′-butoxy-2,6-difluorobiphenyl-4-amine | 172 mg | C(CCC)OC=1C=C(C=CC1)C1=C(C=C(C=C1F)N)F | C16H17F2NO
